US06967197B2
To a mixture of N-(2-tetrahydropyranyloxy)-2-[7-(5-(4-ethylphenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (80 mg) in chloroform (3 ml) was added isopropyl isocyanate (16.6 mg) and the mixture was stirred at ambient temperature for 3 hours. The mixture was partitioned between water and chloroform. The organic layer was separated, washed with 5% citric acid water solution, water, saturated sodium bicarbonate solution and brine. To the reaction mixture were added 4N hydrogen chloride ethyl acetate solution (0.5 ml), chloroform (1 ml) and methanol (1.5 ml) and the reaction mixture was stirred at ambient temperature for 30 minutes. After evaporation of solvent, the residue was purified by HPLC (0.1% trifluoroacetic acid in 20% acetonitrile-water ˜0.1% trifluoroacetic acid in 80% acetonitrile-water) to give N-hydroxy-2-[7-(5-(4-ethylphenyl)-2-thienyl)-4-isopropylcarbamoyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide (36 mg) as a pale yellow powder.

reactant | N-(2-tetrahydropyranyloxy)-2-[7-(5-(4-ethylphenyl)-2-thienyl)-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 80 mg | O1C(CCCC1)ONC(CC1(CCNCCS1(=O)=O)C=1SC(=CC1)C1=CC=C(C=C1)CC)=O | C24H32N2O5S2
reactant | isopropyl isocyanate | 16.6 mg | C(C)(C)N=C=O | C4H7NO
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N-hydroxy-2-[7-(5-(4-ethylphenyl)-2-thienyl)-4-isopropylcarbamoyl-1,1-dioxoperhydro-1,4-thiazepin-7-yl]acetamide | 36 mg | ONC(CC1(CCN(CCS1(=O)=O)C(NC(C)C)=O)C=1SC(=CC1)C1=CC=C(C=C1)CC)=O | C23H31N3O5S2
